* Schematics Netlist *



V_VDD         $N_0001 0 5V
R_R1         $N_0002 $N_0001  90k  
V_Va         $N_0003 0  
+PULSE 0V 5V 10n 2n 2n 40n 100n
M_M1         $N_0002 $N_0003 0 0 MbreakN-X  
+ L=1u  
+ W=2u         
M_M2         $N_0002 $N_0004 0 0 MbreakN-X  
+ L=1u  
+ W=2u         
V_Vb         $N_0004 0  
+PULSE 0V 5V 30n 2n 2n 40n 100n
